US06498154B1
3-(4,4-Dimethyl-2-thioxo-1,2,3,4,-tetrahydroquinolin-6-yl)benzonitrile
Prepared by heating under reflux overnight a stirred mixture of 3-(4,4-dimethyl-2-oxo-1,2,3,4,-tetrahydroquinolin-6-yl)benzonitrile and an equal weight of phosphorus pentasulfide in pyridine and workup as in the previous example gave a yellow solid: mp 220-223° C. dec. 1H-NMR (DMSO-d6) δ 12.35 (s, 1H), 8.21 (s, 1H), 8.10 (d, 1H, J=6.0 Hz), 7.80 (d, 1H, J=7.9 Hz), 7.72 (s, 1H), 7.65 (m, 2H), 7.21 (d, 1H, J=8.4 Hz), 2.85 (s, 2H), 1.27 (s, 6H); MS (APCI (−)) m/z 291 [M−H]− Anal. Calc. For C18H16N2S 3H2O: C, 62.40, H, 6.40, N, 8.09. Found: C, 62.12, H, 4.88, N 7.77.

reactant | 3-(4,4-dimethyl-2-oxo-1,2,3,4,-tetrahydroquinolin-6-yl)benzonitrile | CC1(CC(NC2=CC=C(C=C12)C=1C=C(C#N)C=CC1)=O)C | C18H16N2O
reactant | phosphorus pentasulfide | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-(4,4-Dimethyl-2-thioxo-1,2,3,4,-tetrahydroquinolin-6-yl)benzonitrile | CC1(CC(NC2=CC=C(C=C12)C=1C=C(C#N)C=CC1)=S)C | C18H16N2S
